US07772271B2
To a solution of [4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indole-2-yl)-phenyl]-carbamic acid 3-chloro-propyl ester in 5 mL of DMF is added anhydrous K2CO3. The resulting mixture is stirred at 80° C. until complete consumption of the starting material is determined by TLC. After cooling, 10 mL of water is added to the reaction mixture to afford a solid precipitation which is collected by filtration, followed by washing with ether. The desired 1-cyclobutyl-6-ethoxy-2-[4-(2-oxo-[1,3]oxazinan-3-yl)-phenyl]-1H-indole-3-carbonitrile is obtained as a white powder (76.2 mg, 91.8% yield).

reactant | [4-(3-cyano-1-cyclobutyl-6-ethoxy-1H-indole-2-yl)-phenyl]-carbamic acid 3-chloro-propyl ester | ClCCCOC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OCC)C1CCC1)=O | C25H26ClN3O3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-cyclobutyl-6-ethoxy-2-[4-(2-oxo-[1,3]oxazinan-3-yl)-phenyl]-1H-indole-3-carbonitrile | C1(CCC1)N1C(=C(C2=CC=C(C=C12)OCC)C#N)C1=CC=C(C=C1)N1C(OCCC1)=O | C25H25N3O3
